US08980893B2
5-[5-(3,5-Bistrifluoromethylphenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-indolizine-8-carboxylic acid [(2,2,2-trifluoroethylcarbamoyl)methyl]-amide (compound No 1.008)
5-[5-(3,5-Bistrifluoromethylphenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-indolizine-8-carboxylic acid (50 mg), 1-ethyl-(3-dimethylaminopropyl)carbodiimide hydrochloride (EDAC.HCl, 22.5 mg), 1-hydroxybenzotriazole monohydrate (HOBt.H2O, 20 mg) and N-methylmorpholine (22 μL) were stirred in a mixture of DMF-DCM (½, 1 mL) for 20 minutes at room temperature prior to adding 2-amino-N-(2,2,2-trifluoroethyl)acetamide (50 mg, Ukrorgsynthesis Ltd. Kiev, UKRAINE). The reaction mixture was stirred overnight at room temperature. The mixture was diluted with water and EA. The organic layer was collected, washed with brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure to give a residue that was purified by chromatography (SiO2, DCM/MeOH) to afford the title compound as an orange-reddish solid (11.1 mg, 17%). MS (ES): M/Z [M+H]=649. 1H NMR (400 MHz, CHLOROFORM-d): 3.88-4.04 (m, 3H), 4.33 (d, J=5.3 Hz, 2H), 4.39 (d, J=16.6 Hz, 1H), 6.84 (d, J=7.4 Hz, 1H), 7.05-7.08 (m, 1H), 7.08-7.21 (m, 3H), 7.33 (t, J=4.9 Hz, 1H), 8.01 (s, 1H), 8.13 (s, 2H), 8.72 (d, J=1.8 Hz, 1H). 19F NMR (376 MHz, CHLOROFORM-d): −80.0 (s, 3F), −72.9 (t, J=9.2 Hz, 3F), −63.3 (s, 6F).

reactant | 5-[5-(3,5-Bistrifluoromethylphenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-indolizine-8-carboxylic acid | 50 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C=1N2C=CC=C2C(=CC1)C(=O)O)C(F)(F)F)(F)F | C21H11F9N2O3
reactant | 1-ethyl-(3-dimethylaminopropyl)carbodiimide hydrochloride | 22.5 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole monohydrate | 20 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 22 μL | CN1CCOCC1 | C5H11NO
reactant | 2-amino-N-(2,2,2-trifluoroethyl)acetamide | 50 mg | NCC(=O)NCC(F)(F)F | C4H7F3N2O
solvent | DMF DCM | 1 mL | CN(C)C=O.C(Cl)Cl
solvent | water | O | H2O
solvent | EA | CC(OCC)=O | C4H8O2
product | 5-[5-(3,5-Bistrifluoromethylphenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-indolizine-8-carboxylic acid [(2,2,2-trifluoroethylcarbamoyl)methyl]-amide | 11.1 mg, 17% | FC(CNC(=O)CNC(=O)C1=CC=C(N2C=CC=C12)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)(F)F | C25H16F12N4O3
